** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaq_5t_sky130_tb.sch
**.subckt otaq_5t_sky130_tb out
*.opin out
V1 Vinp 0 dc 0.9 ac 1 sin(0.9 0.005 5meg 0 0)
V2 Vinn 0 dc 0.9 sin(0.9 0.005 5meg 0 0 180)
V4 net1 0 1.8
x1 net1 out Vinp Vinn 0 otaq_5t_sky130
**** begin user architecture code
.lib /foss/pdks/sky130A/libs.tech/combined/sky130.lib.spice tt


.control
save all
tran 1n 400n
write otaq5t_tran.raw
op
print @m.x1.xm2.msky130_fd_pr__nfet_01v8[gds] @m.x1.xm4.msky130_fd_pr__pfet_01v8[gds]
print @m.x1.xm1.msky130_fd_pr__nfet_01v8[gm]
write otaq5t_op.raw
ac dec 20 1k 100meg
write otaq5t_ac.raw
.endc

**** end user architecture code
**.ends

* expanding   symbol:  otaq_5t_sky130.sym # of pins=5
** sym_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaq_5t_sky130.sym
** sch_path: /foss/designs/modulo6/tt_um_psei_ota_qboost/xschem/otaq_5t_sky130.sch
.subckt otaq_5t_sky130 VDD VOUT VINP VINN GND
*.ipin VINP
*.ipin VINN
*.opin VOUT
*.ipin VDD
*.ipin GND
XM5 net4 VDD net5 GND sky130_fd_pr__nfet_01v8 L=20 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
XM1 net1 VINP net2 GND sky130_fd_pr__nfet_01v8 L=7 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
XM2 VOUT VINN net3 GND sky130_fd_pr__nfet_01v8 L=7 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
XM3 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=7 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 VOUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=7 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM6 VDD VDD GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
Vmeas net5 GND 0
.save i(vmeas)
Vmeas1 net2 net4 0
.save i(vmeas1)
Vmeas2 net3 net4 0
.save i(vmeas2)
.ends

.end
